US06441017B1
Step G: (R)-2-Fluoro-4(5-{[1-(3-hydroxyphenylsulfonyl)pyrrolidin-3-ylamino]methyl}imidazol-1-ylmethy)benzonitrile
(R)-3-Amino-1-(3-hydroxyphenylsulfonyl)pyrrolidine hydrochloride, as described above in Step F. (360 mg, 1.29 nimol) and 1-(4-cyano-3-fluorobenzyl)-5-imidazolecarboxaldehyde, as described in Example 1, Step G. (326 mg, 1.42 mmol) were stirred in MeOH (8 mL) and N,N-diisopropylethylamine was added dropwise adjust the mixture to ca. pH 5, as judged by wetted pH paper. The mixture was stirred for 1 hour at ambient temperature then NaCNBH3 (97 mg, 1.54 mmol) was added and stirring was continued for 18 hours. The reaction was quenched with saturated aqueous NaHCO3 (2 mL) and most of the MeOH was removed under reduced pressure. The residual solution was partitioned between saturated aqueous NaHCO3 (10 mL) and CHCl3 (20 mL). The aqueous layer was extracted further with CHCl3 (3×15 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of EtOAc—5% MeOH—0.5% NH4OH to EtOAc—10% MeOH—1% NH4OH to yield the titled product as a white foam.

reactant | (R)-3-Amino-1-(3-hydroxyphenylsulfonyl)pyrrolidine hydrochloride | Cl.N[C@H]1CN(CC1)S(=O)(=O)C1=CC(=CC=C1)O
reactant | 1-(4-cyano-3-fluorobenzyl)-5-imidazolecarboxaldehyde | C(#N)C1=C(C=C(CN2C=NC=C2C=O)C=C1)F | C12H8FN3O
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaCNBH3 | 1.54 mmol, 97 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 8 mL | CO | CH4O
product | (R)-2-Fluoro-4(5-{[1-(3-hydroxyphenylsulfonyl)pyrrolidin-3-ylamino]methyl}imidazol-1-ylmethy)benzonitrile | FC1=C(C#N)C=CC(=C1)CN1C=NC=C1CN[C@H]1CN(CC1)S(=O)(=O)C1=CC(=CC=C1)O | C22H22FN5O3S
